US08183388B2
[(2R,3S)-3-hydroxytetrahydrofuran-2-yl]methyl 4-methylbenzenesulfonate
(2R,3S)-2-(hydroxymethyl)tetrahydrofuran-3-ol (1.59 g, 13.46 mmol) (prepared as described in Chenault, K. H.; Mandes, R. F. Tetrahedron, 1997, 53(32), 11033-11038) is dissolved in dry pyridine (15 mL) and the solution cooled to −40° C. in a dry ice/acetone bath for 30 min. p-Toluenesulfonyl chloride (2.58 g, 13.51 mmol) is added slowly over 5 min and the solution allowed to warm up to room temperature over 4 h. The solution is concentrated to provide 3.59 g (86%) of the title compound which is used without further purification. LC-ES/MS m/z 295.0 [M+Na]+, TR=1.76 min. (Symyx Draw 3.1 (IUPAC Name) provides the name for the compound of Preparation 12.)

reactant | (2R,3S)-2-(hydroxymethyl)tetrahydrofuran-3-ol | 13.46 mmol, 1.59 g | OC[C@H]1OCC[C@@H]1O | C5H10O3
reactant | p-Toluenesulfonyl chloride | 13.51 mmol, 2.58 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | [(2R,3S)-3-hydroxytetrahydrofuran-2-yl]methyl 4-methylbenzenesulfonate | 3.59 g, 86% | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OCC[C@@H]1O | C12H16O5S
